* Created by mapped OpenRule1um bridge

* cell VCO
.SUBCKT VCO 19 28 29 1 30
* net 1 GND
* net 19 Vout
* net 28 VDD
* net 29 VDD
* net 30 VSS
* device instance $1 r0 *1 205.3,84.1 PMOS
M$1 28 22 22 29 PMOS L=10U W=6U AS=12P AD=6P PS=16U PD=8U
* device instance $2 r0 *1 217.3,84.1 PMOS
M$2 22 22 28 29 PMOS L=10U W=6U AS=6P AD=12P PS=8U PD=16U
* device instance $3 r0 *1 476.3,83.1 PMOS
M$3 27 22 28 29 PMOS L=5U W=3U AS=6P AD=3P PS=10U PD=5U
* device instance $4 r0 *1 483.3,83.1 PMOS
M$4 28 22 27 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $5 r0 *1 490.3,83.1 PMOS
M$5 27 22 28 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $6 r0 *1 497.3,83.1 PMOS
M$6 28 22 27 29 PMOS L=5U W=3U AS=3P AD=6P PS=5U PD=10U
* device instance $7 r0 *1 437.3,83.1 PMOS
M$7 26 22 28 29 PMOS L=5U W=3U AS=6P AD=3P PS=10U PD=5U
* device instance $8 r0 *1 444.3,83.1 PMOS
M$8 28 22 26 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $9 r0 *1 451.3,83.1 PMOS
M$9 26 22 28 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $10 r0 *1 458.3,83.1 PMOS
M$10 28 22 26 29 PMOS L=5U W=3U AS=3P AD=6P PS=5U PD=10U
* device instance $11 r0 *1 398.3,83.1 PMOS
M$11 21 22 28 29 PMOS L=5U W=3U AS=6P AD=3P PS=10U PD=5U
* device instance $12 r0 *1 405.3,83.1 PMOS
M$12 28 22 21 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $13 r0 *1 412.3,83.1 PMOS
M$13 21 22 28 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $14 r0 *1 419.3,83.1 PMOS
M$14 28 22 21 29 PMOS L=5U W=3U AS=3P AD=6P PS=5U PD=10U
* device instance $15 r0 *1 320.3,83.1 PMOS
M$15 24 22 28 29 PMOS L=5U W=3U AS=6P AD=3P PS=10U PD=5U
* device instance $16 r0 *1 327.3,83.1 PMOS
M$16 28 22 24 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $17 r0 *1 334.3,83.1 PMOS
M$17 24 22 28 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $18 r0 *1 341.3,83.1 PMOS
M$18 28 22 24 29 PMOS L=5U W=3U AS=3P AD=6P PS=5U PD=10U
* device instance $19 r0 *1 332.4,66.1 PMOS
M$19 4 3 24 29 PMOS L=1U W=3U AS=6P AD=6P PS=10U PD=10U
* device instance $20 r0 *1 281.3,83.1 PMOS
M$20 23 22 28 29 PMOS L=5U W=3U AS=6P AD=3P PS=10U PD=5U
* device instance $21 r0 *1 288.3,83.1 PMOS
M$21 28 22 23 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $22 r0 *1 295.3,83.1 PMOS
M$22 23 22 28 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $23 r0 *1 302.3,83.1 PMOS
M$23 28 22 23 29 PMOS L=5U W=3U AS=3P AD=6P PS=5U PD=10U
* device instance $24 r0 *1 359.3,83.1 PMOS
M$24 25 22 28 29 PMOS L=5U W=3U AS=6P AD=3P PS=10U PD=5U
* device instance $25 r0 *1 366.3,83.1 PMOS
M$25 28 22 25 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $26 r0 *1 373.3,83.1 PMOS
M$26 25 22 28 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $27 r0 *1 380.3,83.1 PMOS
M$27 28 22 25 29 PMOS L=5U W=3U AS=3P AD=6P PS=5U PD=10U
* device instance $28 r0 *1 530.5,66.1 PMOS
M$28 19 18 28 29 PMOS L=1U W=3U AS=6P AD=6P PS=10U PD=10U
* device instance $29 r0 *1 242.3,83.1 PMOS
M$29 20 22 28 29 PMOS L=5U W=3U AS=6P AD=3P PS=10U PD=5U
* device instance $30 r0 *1 249.3,83.1 PMOS
M$30 28 22 20 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $31 r0 *1 256.3,83.1 PMOS
M$31 20 22 28 29 PMOS L=5U W=3U AS=3P AD=3P PS=5U PD=5U
* device instance $32 r0 *1 263.3,83.1 PMOS
M$32 28 22 20 29 PMOS L=5U W=3U AS=3P AD=6P PS=5U PD=10U
* device instance $33 r0 *1 516.5,66.1 PMOS
M$33 18 8 28 29 PMOS L=1U W=3U AS=6P AD=6P PS=10U PD=10U
* device instance $34 r0 *1 449.4,66.1 PMOS
M$34 7 6 26 29 PMOS L=1U W=3U AS=6P AD=6P PS=10U PD=10U
* device instance $35 r0 *1 410.4,66.1 PMOS
M$35 6 5 21 29 PMOS L=1U W=3U AS=6P AD=6P PS=10U PD=10U
* device instance $36 r0 *1 371.4,66.1 PMOS
M$36 5 4 25 29 PMOS L=1U W=3U AS=6P AD=6P PS=10U PD=10U
* device instance $37 r0 *1 488.4,66.1 PMOS
M$37 8 7 27 29 PMOS L=1U W=3U AS=6P AD=6P PS=10U PD=10U
* device instance $38 r0 *1 254.4,66.1 PMOS
M$38 2 8 20 29 PMOS L=1U W=3U AS=6P AD=6P PS=10U PD=10U
* device instance $39 r0 *1 293.4,66.1 PMOS
M$39 3 2 23 29 PMOS L=1U W=3U AS=6P AD=6P PS=10U PD=10U
* device instance $40 r0 *1 205.4,40.9 NMOS
M$40 9 17 1 30 NMOS L=10U W=2U AS=4P AD=2P PS=8U PD=4U
* device instance $41 r0 *1 217.4,40.9 NMOS
M$41 1 17 9 30 NMOS L=10U W=2U AS=2P AD=4P PS=4U PD=8U
* device instance $42 r0 *1 242.2,41.6 NMOS
M$42 10 17 1 30 NMOS L=5U W=2U AS=4P AD=2P PS=8U PD=4U
* device instance $43 r0 *1 249.2,41.6 NMOS
M$43 1 17 10 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $44 r0 *1 256.2,41.6 NMOS
M$44 10 17 1 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $45 r0 *1 263.2,41.6 NMOS
M$45 1 17 10 30 NMOS L=5U W=2U AS=2P AD=4P PS=4U PD=8U
* device instance $46 r0 *1 281.2,41.6 NMOS
M$46 11 17 1 30 NMOS L=5U W=2U AS=4P AD=2P PS=8U PD=4U
* device instance $47 r0 *1 288.2,41.6 NMOS
M$47 1 17 11 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $48 r0 *1 295.2,41.6 NMOS
M$48 11 17 1 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $49 r0 *1 302.2,41.6 NMOS
M$49 1 17 11 30 NMOS L=5U W=2U AS=2P AD=4P PS=4U PD=8U
* device instance $50 r0 *1 320.2,41.6 NMOS
M$50 12 17 1 30 NMOS L=5U W=2U AS=4P AD=2P PS=8U PD=4U
* device instance $51 r0 *1 327.2,41.6 NMOS
M$51 1 17 12 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $52 r0 *1 334.2,41.6 NMOS
M$52 12 17 1 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $53 r0 *1 341.2,41.6 NMOS
M$53 1 17 12 30 NMOS L=5U W=2U AS=2P AD=4P PS=4U PD=8U
* device instance $54 r0 *1 359.2,41.6 NMOS
M$54 13 17 1 30 NMOS L=5U W=2U AS=4P AD=2P PS=8U PD=4U
* device instance $55 r0 *1 366.2,41.6 NMOS
M$55 1 17 13 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $56 r0 *1 373.2,41.6 NMOS
M$56 13 17 1 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $57 r0 *1 380.2,41.6 NMOS
M$57 1 17 13 30 NMOS L=5U W=2U AS=2P AD=4P PS=4U PD=8U
* device instance $58 r0 *1 398.2,41.6 NMOS
M$58 14 17 1 30 NMOS L=5U W=2U AS=4P AD=2P PS=8U PD=4U
* device instance $59 r0 *1 405.2,41.6 NMOS
M$59 1 17 14 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $60 r0 *1 412.2,41.6 NMOS
M$60 14 17 1 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $61 r0 *1 419.2,41.6 NMOS
M$61 1 17 14 30 NMOS L=5U W=2U AS=2P AD=4P PS=4U PD=8U
* device instance $62 r0 *1 437.2,41.6 NMOS
M$62 15 17 1 30 NMOS L=5U W=2U AS=4P AD=2P PS=8U PD=4U
* device instance $63 r0 *1 444.2,41.6 NMOS
M$63 1 17 15 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $64 r0 *1 451.2,41.6 NMOS
M$64 15 17 1 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $65 r0 *1 458.2,41.6 NMOS
M$65 1 17 15 30 NMOS L=5U W=2U AS=2P AD=4P PS=4U PD=8U
* device instance $66 r0 *1 476.2,41.6 NMOS
M$66 16 17 1 30 NMOS L=5U W=2U AS=4P AD=2P PS=8U PD=4U
* device instance $67 r0 *1 483.2,41.6 NMOS
M$67 1 17 16 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $68 r0 *1 490.2,41.6 NMOS
M$68 16 17 1 30 NMOS L=5U W=2U AS=2P AD=2P PS=4U PD=4U
* device instance $69 r0 *1 497.2,41.6 NMOS
M$69 1 17 16 30 NMOS L=5U W=2U AS=2P AD=4P PS=4U PD=8U
* device instance $70 r0 *1 205.3,63.2 NMOS
M$70 22 22 9 30 NMOS L=10U W=2U AS=4P AD=2P PS=8U PD=4U
* device instance $71 r0 *1 217.3,63.2 NMOS
M$71 9 22 22 30 NMOS L=10U W=2U AS=2P AD=4P PS=4U PD=8U
* device instance $72 r0 *1 254.4,54.6 NMOS
M$72 2 8 10 30 NMOS L=1U W=2U AS=4P AD=4P PS=8U PD=8U
* device instance $73 r0 *1 293.4,54.6 NMOS
M$73 3 2 11 30 NMOS L=1U W=2U AS=4P AD=4P PS=8U PD=8U
* device instance $74 r0 *1 332.4,54.6 NMOS
M$74 4 3 12 30 NMOS L=1U W=2U AS=4P AD=4P PS=8U PD=8U
* device instance $75 r0 *1 371.4,54.6 NMOS
M$75 5 4 13 30 NMOS L=1U W=2U AS=4P AD=4P PS=8U PD=8U
* device instance $76 r0 *1 410.4,54.6 NMOS
M$76 6 5 14 30 NMOS L=1U W=2U AS=4P AD=4P PS=8U PD=8U
* device instance $77 r0 *1 449.4,54.6 NMOS
M$77 7 6 15 30 NMOS L=1U W=2U AS=4P AD=4P PS=8U PD=8U
* device instance $78 r0 *1 488.4,54.6 NMOS
M$78 8 7 16 30 NMOS L=1U W=2U AS=4P AD=4P PS=8U PD=8U
* device instance $79 r0 *1 516.5,54.6 NMOS
M$79 18 8 1 30 NMOS L=1U W=2U AS=4P AD=4P PS=8U PD=8U
* device instance $80 r0 *1 530.5,54.6 NMOS
M$80 19 18 1 30 NMOS L=1U W=2U AS=4P AD=4P PS=8U PD=8U
* Legacy OpenRule1um poly-cap markers retained as explicit simulation caps.
CLEG1 2 1 1.224e-12
CLEG2 3 1 1.224e-12
CLEG3 4 1 1.224e-12
CLEG4 5 1 1.224e-12
CLEG5 6 1 1.224e-12
CLEG6 7 1 1.224e-12
CLEG7 8 1 1.224e-12
.ENDS VCO
