** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/TR10/202509/OPAMP/opamp_ShuntaroOhno/opamp_ShuntaroOhno/xschem/opamp.sch
.subckt opamp vinp vinn ib out vdd vss
*.PININFO vinp:I vinn:I out:O vdd:B vss:B ib:B
X1 vinp vinn net2 vdd vss ib diff
X2 net2 ib out vdd vss cs
XM9 net1 ib vdd vdd PMOS w=120u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
XM12 net3 net1 net2 vss NMOS w=30u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
XM8 ib ib vdd vdd PMOS w=90u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
XM10 net1 net1 net4 vss NMOS w=60u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
XM11 net4 net4 vss vss NMOS w=60u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
C1 net3 out 8.856p
.ends

* expanding   symbol:  diff.sym # of pins=6
** sym_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/TR10/202509/OPAMP/opamp_ShuntaroOhno/opamp_ShuntaroOhno/xschem/diff.sym
** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/TR10/202509/OPAMP/opamp_ShuntaroOhno/opamp_ShuntaroOhno/xschem/diff.sch
.subckt diff vinp vinn out vdd vss vb
*.PININFO vinn:I vinp:I vb:I out:O vdd:B vss:B
XM5 net2 vb vdd vdd PMOS w=240u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
XM1 net1 vinn net2 net2 PMOS w=720u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
XM2 out vinp net2 net2 PMOS w=720u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
XM3 net1 net1 vss vss NMOS w=60u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
XM4 out net1 vss vss NMOS w=60u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
.ends


* expanding   symbol:  cs.sym # of pins=5
** sym_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/TR10/202509/OPAMP/opamp_ShuntaroOhno/opamp_ShuntaroOhno/xschem/cs.sym
** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/TR10/202509/OPAMP/opamp_ShuntaroOhno/opamp_ShuntaroOhno/xschem/cs.sch
.subckt cs vin vb out vdd vss
*.PININFO vb:I vin:I out:O vss:B vdd:B
XM6 out vb vdd vdd PMOS w=540u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
XM7 out vin vss vss NMOS w=270u l=3u as=0 ad=0 ps=0 pd=0 nrd=0 nrs=0 m=1
.ends

